US09079866B2
5-(2-Fluoro-4-{2-[(1-methylethyl)sulfonyl]pyridin-3-yl}phenyl)pyrimidin-2-amine
The title compound was prepared as described in step D of Example 803 using 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrimidin-2-amine and 3-bromo-2-(isopropylsulfonyl)pyridine. MS (ESI): mass calcd. for C18H17FN4O2S, 372.11; m/z found, 373.0 [M+H]+. 1H NMR (400 MHz, CDCl3) δ 8.69 (dd, J=4.7, 1.7, 1H), 8.57 (d, J=1.4, 2H), 7.80 (dd, J=7.8, 1.6, 1H), 7.59 (dd, J=7.8, 4.6, 1H), 7.46 (m, 1H), 7.39 (dd, J=7.9, 1.8, 1H), 7.32 (dd, J=11.1, 1.7, 1H), 5.17 (s, 2H), 4.26 (hept, J=6.9, 1H), 1.32 (d, J=6.9, 6H).

reactant | 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrimidin-2-amine | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)C=1C=NC(=NC1)N | C16H19BFN3O2
reactant | 3-bromo-2-(isopropylsulfonyl)pyridine | BrC=1C(=NC=CC1)S(=O)(=O)C(C)C | C8H10BrNO2S
product | 5-(2-Fluoro-4-{2-[(1-methylethyl)sulfonyl]pyridin-3-yl}phenyl)pyrimidin-2-amine | FC1=C(C=CC(=C1)C=1C(=NC=CC1)S(=O)(=O)C(C)C)C=1C=NC(=NC1)N | C18H17FN4O2S
